US07067517B2
Methyl-phenyl-carbamic acid 4-butyrylamino-phenyl ester
The title product was prepared from 4′-hydroxybutyranilide and N-methyl-N-phenylcarbamoyl chloride. The crude product was subjected to preparative HPLC (60%, white solid). HPLC-MS: m/z=313.2 (M+1); Rt: 3.58 min.

reactant | 4′-hydroxybutyranilide | OC1=CC=C(NC(CCC)=O)C=C1 | C10H13NO2
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 4-butyrylamino-phenyl ester | C(CCC)(=O)NC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C18H20N2O3
